US04304770
To a solution of 2-(2-formamidothiazol-4-yl)glyoxylic acid (30 g) and sodium bicarbonate (12.6 g) in water (1300 ml) was added allyloxyamine hydrochloride (19.8 g), and the mixture was stirred for 7 hours at ambient temperature at pH 6. To the reaction mixture was added ethyl acetate (500 ml). After the mixture was adjusted to pH 1.9 with 10% hydrochloric acid, the ethyl acetate layer was separated. The ethyl acetate layer was washed with an aqueous solution of sodium chloride, dried over magnesium sulfate and then the solvent was distilled off. The residue was pulverized in diisopropyl ether, collected by filtration and then dried to give 2-allyloxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (25.3 g).

reactant | 2-(2-formamidothiazol-4-yl)glyoxylic acid | 30 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=O | C6H4N2O4S
reactant | sodium bicarbonate | 12.6 g | C([O-])(O)=O.[Na+]
reactant | allyloxyamine hydrochloride | 19.8 g | Cl.C(C=C)ON
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1300 ml | O | H2O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2-allyloxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 25.3 g | C(C=C)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C9H9N3O4S
